US06521666B1
To a solution of 4-amino-2-chlorobenzoic acid methyl ester hydrochloride (0.52 g) and DIEA (0.27 mL) in CH2Cl2 (20 mL) at 0° C. under N2 was added 4-chlorobutyryl chloride (0.3 mL) and the mixture was stirred for 4 h at that temperature. DMAP (0.23 mmol) was added and the mixture was stirred at room temperature overnight. 4-Chlorobutyryl chloride (0.3 mL) and DIEA (0.09 mL) were added and the mixture was stirred for 24 h. The mixture was diluted with CH2Cl2 (100 mL) and the solution was washed successively with 1N HCl, std. NaHCO3, brine, dried and evaporated. The residue was purified by column chromatography (silica gel; eluent: hexane/EtOAc 3:1) to yield 4-(4-chlorobutyryl)amino-2-chlorobenzoic acid methyl ester (0.64 g). ESMS: m/z 290 (MH+).

reactant | 4-amino-2-chlorobenzoic acid methyl ester hydrochloride | 0.52 g | Cl.COC(C1=C(C=C(C=C1)N)Cl)=O
reactant | DIEA | 0.27 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorobutyryl chloride | 0.3 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 4-Chlorobutyryl chloride | 0.3 mL | ClCCCC(=O)Cl | C4H6Cl2O
reactant | DIEA | 0.09 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.23 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-chlorobutyryl)amino-2-chlorobenzoic acid methyl ester | 0.64 g | COC(C1=C(C=C(C=C1)NC(CCCCl)=O)Cl)=O | C12H13Cl2NO3
